US07659296B2
G. 2-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzooxazole-6-carboxylic acid methyl ester
2-[1-Ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-benzooxazole-6-carboxylic acid methyl ester (1.20 g, 3.38 mmol) in acetone (40 mL) is treated with 1-bromopinacolone (0.73 g, 4.06 mmol) and K2CO3 (0.93 g, 6.76 mmol). The suspension is stirred at RT for 4 h. The mixture is filtered, and the filtrate is concentrated. The residue is purified using silica gel column chromatography (15% EtOAc/Hex) to give the title compound as a pale yellow oil (1.50 g, 98%). H-NMR (ppm, CDCl3) δ: 8.14 (1H, d, J=2.4 Hz), 8.07 (1H, dd, J=1.2, 8.4 Hz), 7.78 (1H, d, J=8.4 Hz), 7.05 (1H, d, J=1.6 Hz), 7.00 (1H, dd, J=2.4, 8.4 Hz), 6.56 (1H, d, J=8.4 Hz), 4.87 (2H, s), 3.96 (3H, s), 2.40 (2H, q, J=7.5 Hz), 2.30 (2. H, q, J=7.5 Hz), 2.28 (3H, s), 1.27 (9H, s), 0.77 (6H, t, J=7.5 Hz).

reactant | 2-[1-Ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-benzooxazole-6-carboxylic acid methyl ester | 3.38 mmol, 1.20 g | COC(=O)C1=CC2=C(N=C(O2)C(CC)(C2=CC(=C(C=C2)O)C)CC)C=C1 | C21H23NO4
reactant | 1-bromopinacolone | 4.06 mmol, 0.73 g | BrCC(C(C)(C)C)=O | C6H11BrO
reactant | K2CO3 | 6.76 mmol, 0.93 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 40 mL | CC(=O)C | C3H6O
product | 2-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzooxazole-6-carboxylic acid methyl ester | 1.50 g, 98% | COC(=O)C1=CC2=C(N=C(O2)C(CC)(CC)C2=CC(=C(C=C2)OCC(C(C)(C)C)=O)C)C=C1 | C27H33NO5
